US04450167
A suspension of 2.17 g of ethyl 4-hydroxy-3-quinoline-carboxylate in 20 ml of propylamine in the presence of traces of sodium hydride was refluxed and then was stirred at 50° C. for 16 hours. The mixture was pouredinto water and the suspension was vacuum filtered. The product was washed with water, dried in an oven at 100° C. and was crystallized from methanol to obtain 1.1 g of 4-hydroxy-N-propyl-3-quinoline-carboxamide melting at 210° C.

reactant | ethyl 4-hydroxy-3-quinoline-carboxylate | 2.17 g | OC1=C(C=NC2=CC=CC=C12)C(=O)OCC | C12H11NO3
reactant | sodium hydride | [H-].[Na+]
reactant | water | O | H2O
solvent | propylamine | 20 ml | C(CC)N | C3H9N
product | 4-hydroxy-N-propyl-3-quinoline-carboxamide | 1.1 g | OC1=C(C=NC2=CC=CC=C12)C(=O)NCCC | C13H14N2O2
